### PR TITLE
Restrict to imaginary axis

### LINKED ISSUE #87: API for restricting (quasi) modular forms on positive imaginary axis
For given $$F(z)$$, get function $$t \mapsto F(it)$$ with $$t > 0$$.

### PR DESCRIPTION
**Pull request by seewoo5**
Closes #87

### CODE REVIEW

File: SpherePacking/ModularForms/Delta.lean [hunk 1]
```diff
@@ -447,44 +448,37 @@ theorem CuspForm_div_Discriminant_Add (k : ℤ) (x y : CuspForm (CongruenceSubgr
...
+/- Δ(it) is real on the (positive) imaginary axis. -/
+lemma Delta_imag_axis_real {t : ℝ} (ht : 0 < t) : (ResToImagAxis Delta t).im = 0 := by
+  simp [ResToImagAxis, ht]
+  rw [Delta_apply, Δ]
+  simp [Subtype.coe_mk, cexp_aux1, cexp_aux2, cexp_aux5]
+  sorry
 
-    sorry
+/- Δ(it) is positive on the (positive) imaginary axis. -/
+lemma Delta_imag_axis_pos {t : ℝ} (ht : 0 < t) : 0 < (ResToImagAxis Delta t).re := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Delta.lean:496]: I saw an auxiliary lemma in one of the previous PRs that will eventually prove this, but I forgot what it was. If someone knows, feel free to prove this one.

**Review by thefundamentaltheor3m — APPROVED** [review]

File: SpherePacking/ModularForms/ResToImagAxis.lean
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/ResToImagAxis.lean:1]: Dot notation for these definitions might be nice? `F.ResToImagAxis` looks better than `ResToImagAxis F`...

File: SpherePacking/ModularForms/ResToImagAxis.lean [hunk 2]
```diff
@@ -0,0 +1,47 @@
...
+  ∀ t : ℝ, 0 < t → ∃ r : ℝ, 0 < r ∧ ResToImagAxis F t = r
+
+/--
+Function $F : \mathbb{H} \to \mathbb{C}$ whose restriction to the imaginary axis is eventually
+positive, i.e. there exists $t_0 > 0$ such that for all $t \ge t_0$, $F(it)$ is positive.
+-/
+noncomputable def ResToImagAxisEventuallyPos (F : ℍ → ℂ) : Prop :=
+  ∃ t₀ : ℝ, 0 < t₀ ∧ ∀ t : ℝ, t₀ ≤ t → ∃ r : ℝ, 0 < r ∧ ResToImagAxis F t = r
+
+theorem ResToImagAxisDifferentiable (F : ℍ → ℂ) (hF : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F) (t : ℝ)
```
Comment (thefundamentaltheor3m) [inline SpherePacking/ModularForms/ResToImagAxis.lean]: `RestToImagAxis.Differentiable` would be nice

File: SpherePacking/ModularForms/ResToImagAxis.lean
Comment (seewoo5) [reply SpherePacking/ModularForms/ResToImagAxis.lean:1]: Updated! Feel free to merge if it looks okay.
